US08048902B2
Step 3: (4′-{3-Methyl-4-[1-(2-trifluoromethyl-phenyl)-ethoxycarbonylamino]-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid
(4′-{3-Methyl-4-[1-(2-trifluoromethyl-phenyl)-ethoxycarbonylamino]-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester (0.41 mmol) was treated with aqueous lithium hydroxide in methanol at 60° C. for 30 minutes. The mixture was purified by preparative HPLC to give the title compound.

reactant | (4′-{3-Methyl-4-[1-(2-trifluoromethyl-phenyl)-ethoxycarbonylamino]-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester | 0.41 mmol | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)C(F)(F)F)=O | C30H27F3N2O5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | CO | CH4O
product | (4′-{3-Methyl-4-[1-(2-trifluoromethyl-phenyl)-ethoxycarbonylamino]-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid | CC1=NOC(=C1NC(=O)OC(C)C1=C(C=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)O | C28H23F3N2O5
